US04711903
2'-hydroxy[1,1':3',1"-terphenyl]-5'-yl thiocyanate
2,6-Diphenylphenol (100 g, 0.406 mole) and ammonium thiocyanate (67.99 g, 0.893 mole) were suspended in methanol (150 ml) in a three necked round bottom flask equipped with magnetic stirrer, thermometer and bubbler. The reaction mixture was cooled to -5° C. in an acetone/ice bath and chlorine gas bubbled through the solution for three hours. Maintaining the temperature below 10° C., ammonia gas was bubbled through the reaction for 2 hours. The contents of the flask were then poured into iced distilled water (250 ml) and allowed to stand for 12 hours. After filtering, the solid was dried in vacuo at 45° C. for 12 hours. The title compound was purified by chromatography on silica and recrystallized from hexane, m.p. ca. 104°-106.5° C.

reactant | 2,6-Diphenylphenol | 0.406 mole, 100 g | C1(=CC=CC=C1)C1=C(C(=CC=C1)C1=CC=CC=C1)O | C18H14O
reactant | ammonium thiocyanate | 0.893 mole, 67.99 g | [S-]C#N.[NH4+]
solvent | methanol | 150 ml | CO | CH4O
product | 2'-hydroxy[1,1':3',1"-terphenyl]-5'-yl thiocyanate | OC1=C(C=C(C=C1C1=CC=CC=C1)SC#N)C1=CC=CC=C1 | C19H13NOS
